US06462075B1
2-Benzylidene-1,3-indandione.
(8) (Chem. Pharm. Bull. 1974, 22(2), 448-451). Boron oxide (720 mg, 10.26 mmol) and benzaldehyde (800 mg, 7.53 mmol) were added to a stirred solution of the indandione (1.00 g, 6.84 mmol) and piperidine (3 drops) in 10.2 ml of benzene. The solution was refluxed with stirring for 30 minutes. After filtration of the solution, the filtrate was concentrated under reduced pressure. The resulting crystalline solid was recrystallized from ethanol to afford 1.00 g (62.4%) of yellowish-green platelets: mp 149.5-150.0° C. (lit. mp 150° C., Okukawa, et al., Chem. Pharm. Bull., 1974, 22(2), 448-451). 1H NMR (250 MHz) δ 8.47-8.45 (m, 2H), 8.06-7.99 (m, 2H), 7.90 (s, 1H), 7.84-7.79 (m, 2H), 7.58-7.50 (m, 3H); 13C NMR (62.7 MHz) 190.5, 189.2, 147.2, 142.7, 140.2, 135.6, 135.4, 134.3, 133.4, 133.2, 129.3, 129.0, 123.5, 123.5 ppm.

reactant | Boron oxide | 10.26 mmol, 720 mg | [B]=O | BO
reactant | benzaldehyde | 7.53 mmol, 800 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | indandione | 6.84 mmol, 1.00 g | C1(C(CC2=CC=CC=C12)=O)=O | C9H6O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | benzene | 10.2 ml | C1=CC=CC=C1 | C6H6
product | 2-Benzylidene-1,3-indandione | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1=O)=O | C16H10O2
